US06313312B1
3-Hexyl-6-methyl-6-[3-(4H-1,2,4-triazol-3-yl)phenyl]-3-azabicyclo[3.1.0]hexan-2-one
To a solution of crude ethyl 3-(3-hexyl-6-methyl-2-oxo-3-azabicyclo[3.1.0]hex-6-yl)benzenecarboximidoate (Preparation 42, 700 mg, 1.86 mmol) in methanol (5 ml) was added formic acid hydrazide (123 mg, 2.05 mmol) and the mixture was heated under reflux for 90 min. After cooling to room temperature, the solvent was removed in vacuo and the residue was heated to 150° C. for 12 h. The mixture was cooled and purified directly by silica column chromatography eluting with ethyl acetate:methanol (95:5) to afford the title compound (400 mg, 64%) as a colourless gum.

reactant | ethyl 3-(3-hexyl-6-methyl-2-oxo-3-azabicyclo[3.1.0]hex-6-yl)benzenecarboximidoate | 1.86 mmol, 700 mg | C(CCCCC)N1C(C2C(C2C1)(C)C=1C=C(C=CC1)C(OCC)=N)=O | C21H30N2O2
reactant | formic acid hydrazide | 2.05 mmol, 123 mg | C(=O)NN | CH4N2O
solvent | methanol | 5 ml | CO | CH4O
product | 3-Hexyl-6-methyl-6-[3-(4H-1,2,4-triazol-3-yl)phenyl]-3-azabicyclo[3.1.0]hexan-2-one | 400 mg, 64% | C(CCCCC)N1C(C2C(C2C1)(C1=CC(=CC=C1)C1=NN=CN1)C)=O | C20H26N4O
